US04122263
2-[2'-(3"-chlorobenzylthio)-5'-chlorophenyl]-imidazoline hydrochloride
32 Parts of 4-chlorobenzothietane-2-spiro-2'-imidazolidine is reacted with 26 parts of 3-chlorobenzyl chloride in 300 parts of methanol, as described in Example 11. The yield is 49 parts (85% of theory) and the melting point is 255° C.

reactant | 4-chlorobenzothietane-2-spiro-2'-imidazolidine | ClC=1C=CC2=C(C1)C1(NCCN1)S2 | C9H9ClN2S
reactant | 3-chlorobenzyl chloride | ClC=1C=C(CCl)C=CC1 | C7H6Cl2
solvent | methanol | CO | CH4O
product | 2-[2'-(3"-chlorobenzylthio)-5'-chlorophenyl]-imidazoline hydrochloride | Cl.ClC=1C=C(CSC2=C(C=C(C=C2)Cl)C=2NCCN2)C=CC1 | InChI=1S/C16H14Cl2N2S.ClH/c17-12-3-1-2-11(8-12)10-21-15-5-4-13(18)9-14(15)16-19-6-7-20-16;/h1-5,8-9H,6-7,10H2,(H,19,20);1H
